US06495568B1
1-Benzhydryl-3-(4-phenylphenoxy)azetidine
Potassium carbonate (2.39 g, 17.4 mmol) was added to a stirred mixture of 1-benzhydryl-3-methanesulphonyloxyazetidine (J.Org.Chem., 1972, 37, 3953; 5 g, 15.8 mmol), 4-phenylphenol (2.95 g, 17.4 mmol) and anhydrous dimethylformamide (65 ml), then the resulting mixture heated under reflux for 4 hours, allowed to cool and partitioned between ethyl acetate and water. The organic phase was separated, washed with saturated brine, dried (MgSO4) and evaporated under reduced pressure, then the residue purified by flash chromatography, using hexane:ethyl acetate (95:5) as eluant, to give the title compound (1.32 g) as a colourless, amorphous solid. δ(CDCl3): 3.17 (dd,2H), 3.75 (dd,2H), 4.43 (s,2H), 4.83 (m,1H), 6.81 (d,1H), 7.16-7.55 (m,17H).

reactant | Potassium carbonate | 17.4 mmol, 2.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-benzhydryl-3-methanesulphonyloxyazetidine | 15.8 mmol, 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
reactant | 4-phenylphenol | 17.4 mmol, 2.95 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 1-Benzhydryl-3-(4-phenylphenoxy)azetidine | 1.32 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=CC=C(C=C1)C1=CC=CC=C1 | C28H25NO
